US08134001B2
In a manner similar to the method described in Example 50a, 2-fluoro-5-iodobenzaldehyde (2.5 g, 10 mmol) (Aldrich) was reacted with 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol (2.7 g, 10 mmol) and K2CO3 in N,N-dimethylacetamide at 170° C. for 0.5 h to give 2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-benzaldehyde as a yellow solid (Yield 3.8 g, 98%).

reactant | 2-fluoro-5-iodobenzaldehyde | 10 mmol, 2.5 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol | 10 mmol, 2.7 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)O)(C)C | C14H24O3Si
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-benzaldehyde | Yield 3.8 g, 98% | OCCOC1=CC=C(OC2=C(C=O)C=C(C=C2)I)C=C1 | C15H13IO4
